Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
PIH eval
 
Major Surgical or Invasive Procedure:
-

 
History of Present Illness:
___ yo G1P0 at 32+2 WGA for ___ eval.  Pt reports slight 
headache, has not taken Tylenol. Pt woke with chest pain at 
0400, reports chest pain intermittent, feels like pressure 
around chest. Reports some epigastric pain.  Pt reports some 
cramping in RUQ, feels smiliar to ctx. Reports some discharge 
but denies vaginal bleeding, contractions and leaking of fluid 
vaginally. +FM this morning
 
Past Medical History:
PNC:      1)Dating: EDC ___ by LMP
          2)Routine testing: O+, Ab neg
          3)Issues with this pregnancy: GDMA1- saw ___
previously for monitoring.
labile BP's prior to pregnancy
OB Hx: G1P0
Gyn Hx: h/o HPV w/HGSIL and LEEP
PMH: migraines
Surg Hx: LEEP ___
Social Hx: denies tobacco/etoh/drugs

 
Social History:
Denies ___
 
___ Exam:
Admission
PE:
     Gen: NAD, speaking without difficulty
     VS: BP  initial 150/103, has since come down to 120's/80's 
x multiple BPs 
HR  89  R 14, O2sats: 99% RA   
     Cardiac sounds WNL, LSCTAB
     Abd: gravid, soft, nontender 
     No edema noted
   
EFM: 155 ___, mod variability, +accels, no decels, reactive.
Toco: occasional ctx pt feels a little crampy

BPP ___, AFI 12 cm, cephalic, placenta anterior, no previa, 
fetal cardiac motion noted.

 
Pertinent Results:
___ 11:09AM BLOOD WBC-11.2* RBC-3.88* Hgb-11.6* Hct-33.9* 
MCV-87 MCH-29.8 MCHC-34.1 RDW-13.5 Plt ___
___ 11:09AM BLOOD Creat-0.5
___ 11:09AM BLOOD ALT-17
___ 11:09AM BLOOD UricAcd-3.2
___ 11:09AM URINE Color-Straw Appear-Clear Sp ___
___ 11:09AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:58PM URINE pH-6 Hours-24 Volume-3700 Creat-41 
TotProt-6 Prot/Cr-0.1
___ 12:58PM URINE 24Creat-___ 24Prot-222
 
Brief Hospital Course:
Ms ___ was admitted to the ___ service at 32 weeks 
gestational age with elevated blood pressures and feeling unwell 
(intermittent chest/RUQ pains). The symptoms resolved with 
admission and did not recur, and her exam and vital signs 
remained reassuring. She did not have any laboratory or clinical 
evidence of HELLP syndrome and her 24-hour urine protein 
collection excluded a diagnosis of preeclampsia. She was 
therefore discharged home with close followup and blood pressure 
monitoring.
 
Medications on Admission:
PNV, ranitidine
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic hypertension, worsening migraine HAs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
rest...pt to stop working
 
Followup Instructions:
___